US08809534B2
Methyl 7-chlorothieno[3,2-b]pyridine-2-carboxylate (5 g, 0.022 mol) and the 4-amino-3-fluorophenol (3.3 g, 0.026 mol) were added to a round bottom flask containing cesium carbonate (14.8 g, 0.045 mol), ethyl-2-cyclohexanone carboxylate (0.73 g, 0.004 mol), and copper (I) chloride (0.22 g, 0.002 mol). The mixture was diluted with DMSO (250 mL) and stirred at 70 C under an atmosphere of nitrogen for 2 hours. The dark reaction mixture was cooled to room temperature and poured into ethyl acetate (500 mL)/water (1 L) with vigorous stirring. The mixture was filtered through celite and the organic portion of the filtrate was separated and dried over magnesium sulfate. The solution was filtered and the filtrate was concentrated to give a purple viscous liquid. The crude product was taken up in dichloromethane and passed through a silica gel column eluting with 1:1 hexane/ethyl acetate. Fractions containing the product were combined and concentrated to afford methyl 7-(4-amino-3-fluorophenoxy)thieno[3,2-b]pyridine-2-carboxylate as red solid. Yield: 1.62 g (23%); MS [M+H]+ 319.1

reactant | Methyl 7-chlorothieno[3,2-b]pyridine-2-carboxylate | 0.022 mol, 5 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)OC | C9H6ClNO2S
reactant | 4-amino-3-fluorophenol | 0.026 mol, 3.3 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | cesium carbonate | 0.045 mol, 14.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 250 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper (I) chloride | 0.002 mol, 0.22 g | [Cu]Cl
solvent | water | 1 L | O | H2O
product | methyl 7-(4-amino-3-fluorophenoxy)thieno[3,2-b]pyridine-2-carboxylate | NC1=C(C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OC)C=C1)F | C15H11FN2O3S
